US08076486B2
3-(2-Fluoro-4-iodo-phenylamino)-5-(2-fluoro-phenyl)-isonicotinamide
1,1′-carbonyldiimidazole (70 mg, 0.43 mmol) was added to a solution of 3-(2-fluoro-phenyl)-5-(2-fluoro-4-iodo-phenylamino)-isonicotinic acid (130 mg, 0.29 mmol) in DMSO (1 mL), and stirred overnight at 60° C. Ammonium acetate (89 mg, 1.15 mmol) was added, and the reaction solution was stirred for an additional 4 h at 60° C. The reaction solution was quenched with H2O, diluted with EtOAc, and filtered through an Extrelut column. The column was washed with EtOAc, and the filtrate was concentrated. The crude product was purified via Biotage eluting with a gradient of 0 to 70% EtOAc in hexanes to afford the desired product (78 mg, 60%). LC-MS (M+H=452, obsd.=452).

reactant | 1,1′-carbonyldiimidazole | 0.43 mmol, 70 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 3-(2-fluoro-phenyl)-5-(2-fluoro-4-iodo-phenylamino)-isonicotinic acid | 0.29 mmol, 130 mg | FC1=C(C=CC=C1)C1=C(C(=O)O)C(=CN=C1)NC1=C(C=C(C=C1)I)F | C18H11F2IN2O2
reactant | Ammonium acetate | 1.15 mmol, 89 mg | C(C)(=O)[O-].[NH4+]
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
product | 3-(2-Fluoro-4-iodo-phenylamino)-5-(2-fluoro-phenyl)-isonicotinamide | 78 mg, 60% | FC1=C(C=CC(=C1)I)NC1=C(C(=O)N)C(=CN=C1)C1=C(C=CC=C1)F | C18H12F2IN3O
